US08871753B2
Step D: N-{3-[2-(5-Aminopyridin-3-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride
Into the reaction vessel were added tert-butyl [5-(2-{3-[(2,5-dichloropyrmidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate (0.20 g, 0.43 mmol) and methanol (2.0 mL) and 4.0 M hydrogen chloride in 1,4-dioxane (2.0 mL). The reaction mixture was stirred at rt for 2 h and then concentrated under vacuum to give the desired product as an off-white powder (140 mg, 96%). LCMS for C17H16Cl2N5 (M+H)+: m/z=360.0, 362.0.

reactant | tert-butyl [5-(2-{3-[(2,5-dichloropyrmidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 0.43 mmol, 0.20 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O)Cl | C22H23Cl2N5O2
reactant | methanol | 2.0 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-(5-Aminopyridin-3-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 140 mg, 96% | Cl.Cl.NC=1C=C(C=NC1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl | InChI=1S/C17H15Cl2N5.2ClH/c18-15-10-22-17(19)24-16(15)23-14-3-1-2-11(7-14)4-5-12-6-13(20)9-21-8-12;;/h1-3,6-10H,4-5,20H2,(H,22,23,24);2*1H
